US04925838
To a solution of (2S,4S)-2-hydroxymethyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (10.7 g) in dichloromethane (100 ml) were added methanesulfonyl chloride (1.44 ml) and triethylamine (3.06 ml) under ice-cooling, and the mixture was stirred at the same temperature for 1 hour. The reaction mixture was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo to give a residue The residue was chromatographed on silica gel (150 g) eluting with a mixture of dichloromethane and acetone (40:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-2-(methanesulfonyloxy)methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (10.39 g).

reactant | (2S,4S)-2-hydroxymethyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 10.7 g | OC[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C32H30N2O5S
reactant | methanesulfonyl chloride | 1.44 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3.06 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (2S,4S)-2-(methanesulfonyloxy)methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 10.39 g | CS(=O)(=O)OC[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C33H32N2O7S2
